US07196111B2
To a solution of 15.0 mg (0.044 mmol) of 7-cyclohexyl-6-(4-fluoro-phenyl)-pyrazolo[1,5-α]pyrimidine-3-carboxylic acid in 2 mL of dimethylformamide (DMF) was added 0.019 mL (0.132 mmol) of diisopropylethylamine (DIEA), a few crystals of dimethylaminopyridine (DMAP cat), 17.4 mg (0.053 mmol) of H-Tyr(tBu)-OtBu.HCl, followed by 20 mg (0.053 mmol) of HATU, and the resulting mixture was stirred at rt overnight. The reaction mixture was diluted with ethyl acetate, washed with 0.1 N sodium hydroxide solution (2 times) and brine. The separated organic layer was dried over sodium sulfate and concentrated to give 3-(4-tert-butoxy-phenyl)-2-{[7-cyclohexyl-6-(4-fluoro-phenyl)-pyrazolo[1,5-α]pyrimidine-3-carbonyl]-amino}-propionic acid tert-butyl ester, which was used without any further purification in the next step.

reactant | 7-cyclohexyl-6-(4-fluoro-phenyl)-pyrazolo[1,5-α]pyrimidine-3-carboxylic acid | 0.044 mmol, 15.0 mg | C1(CCCCC1)C1=C(C=NC=2N1N=CC2C(=O)O)C2=CC=C(C=C2)F | C19H18FN3O2
reactant | diisopropylethylamine | 0.132 mmol, 0.019 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | H-Tyr(tBu)-OtBu.HCl | 0.053 mmol, 17.4 mg | N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)OC(C)(C)C.Cl
reactant | HATU | 0.053 mmol, 20 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(4-tert-butoxy-phenyl)-2-{[7-cyclohexyl-6-(4-fluoro-phenyl)-pyrazolo[1,5-α]pyrimidine-3-carbonyl]-amino}-propionic acid tert-butyl ester | C(C)(C)(C)OC(C(CC1=CC=C(C=C1)OC(C)(C)C)NC(=O)C=1C=NN2C1N=CC(=C2C2CCCCC2)C2=CC=C(C=C2)F)=O | C36H43FN4O4
